US07678818B2
a) Preparation of 1-(2,2-dichloro-1-fluoro-cyclopropyl)-4-methyl-benzene
50% aq. sodium hydroxide solution (4.4 mL, 54 mmol) was added dropwise at 0° C. to a solution of 1-(1-fluoro-vinyl)-4-methyl-benzene (J. Med. Chem. 2004, 47, 5860; 1.84 g, 13.5 mmol) and benzyltriethylammonium chloride (123 mg, 0.54 mmol) in chloroform (20 mL), then after 30 min the ice bath was removed and stirring continued over 16 h. Ice water was added, the organic layer was subsequently washed with 0.1 M aq. hydrochloric acid solution, 5% aq. sodium hydrogencarbonate solution and brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane) afforded the title compound (2.54 g, 86%). Light yellow liquid, MS (EI) 218.0 (M+).

reactant | sodium hydroxide | 54 mmol, 4.4 mL | [OH-].[Na+]
reactant | 1-(1-fluoro-vinyl)-4-methyl-benzene | 13.5 mmol, 1.84 g | FC(=C)C1=CC=C(C=C1)C | C9H9F
reactant | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | benzyltriethylammonium chloride | 0.54 mmol, 123 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 1-(2,2-dichloro-1-fluoro-cyclopropyl)-4-methyl-benzene | 2.54 g, 86% | ClC1(C(C1)(F)C1=CC=C(C=C1)C)Cl | C10H9Cl2F
